US08791255B2
Synthesis of 2-[2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 270 mg of 3,4-dihydro-2H-1,4-benzoxazine in place of the 2,4-difluoroaniline. After purification by silica column chromatography, elution being carried out with CH2Cl2/MeOH 95/05, 150 mg of 2-[2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3,4-dihydro-2H-1,4-benzoxazine | 270 mg | O1CCNC2=C1C=CC=C2 | C8H9NO
product | 2-[2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2-oxoethyl]-6-(morpholin-4-yl)pyrimidin-4(3H)-one | O1CCN(C2=C1C=CC=C2)C(CC2=NC(=CC(N2)=O)N2CCOCC2)=O | C18H20N4O4
